US05262415
(b) 3-Amino-4-(1-imidazolyl)pyridine
4-(1-Imidazolyl)-3-nitropyridine (2.10 g, 11.0 mmol) was dissolved in 20 ml of ethanol. After the atmosphere was replaced with nitrogen, 0.25 g of 10% palladium-carbon was added thereto. After the atmosphere was replaced with hydrogen, hydrogen addition was conducted with stirring at room temperature for 3 days. Palladium-carbon was removed by filtration and the filtered cake was washed with ethanol. The filtrate and the washings were combined and then concentrated. The residue was purified by silica gel column chromatography [eluent: dichloromethane: methanol=8:1-6:1 (v/v)] to obtain 1.62 g of a light brown solid (yield: 91.6%).

reactant | 4-(1-Imidazolyl)-3-nitropyridine | 11.0 mmol, 2.10 g | N1(C=NC=C1)C1=C(C=NC=C1)[N+](=O)[O-] | C8H6N4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.25 g | [C].[Pd]
product | 3-Amino-4-(1-imidazolyl)pyridine | 1.62 g, yield: 91.6% | NC=1C=NC=CC1N1C=NC=C1 | C8H8N4
